US20010029256A1
A mixture of ethyl 3-(4-(2-bromethoxy)phenyl)-2-ethoxypropanoate (3.05 g, 8.8 mmol), potassium phtalimide (2.0 g, 10.8 mmol) and dimethylformamide (20 ml) was heated to 100° C. for 16 h, benzene (200 ml) and water (200 ml) were added and the phases were separated. The organic phase was dried and the solvent evaporated in vacuo. The residue was dissolved in ethanol (60 mL), hydrazine hydrate (1.3 ml) was added and the mixture was refluxed for 2 h, filtered and the solvent evaporated to give 2.4 g (96%) of ethyl 3-(4-(2-aminoethoxy) phenyl)-2-ethoxypropanoate as an oil. Hydrogen oxalate hemihydrate was prepared for characterization by neutralization with oxalic acid in acetone. M.p. 146-148° C. A mixture of dibenzo[b,f9-1,4-thiazepin-11(10H)-thione (2.20 g, 9 mmol; prepared as described in Coll.Czech.Chem.Commun. 48, 1465 (1983), 3-(4-(2-aminoethoxy)phenyl)-2-ethoxypropanoic acid ethyl ester (2.60 g, 8.9 mmol) and 3-methyl-1-butanol (70 ml) was stirred and heated at 150° C. for 16 h. The solvent was evaporated in vacuo, dichloromethane (50 ml) and water (50 ml) were added, the mixture was filtered and the phases were separated. The organic phase was dried (MgSO4) and the solvent was evaporated in vacuo to give a residue which was purified by column chromatography on silica gel eluting with chloroform. This afforded 0.7 g of the starting thione and then 1.7 g (38%) of the title compound as an oil. 1H NMR (250 MHz, CDCl3) δ7.05-7.50 (m, 9 H), 6.85-6.95 (m, 3 H), 5.15 (bs, 1 H), 4.25 (m, 2 H), 4.16 (q, J=7.2 Hz, 2 H), 3.96 (t+m, 3 H), 3.59 (m, 1 H), 3.34 (m, 1 H), 2.95 (d, J=6.4 Hz, 2 H), 1.22 (t, J=7.2 Hz, 3 H), 1.16 (t, J=7.2 Hz, 3 H).

reactant | ethyl 3-(4-(2-bromethoxy)phenyl)-2-ethoxypropanoate | 8.8 mmol, 3.05 g | BrCCOC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C15H21BrO4
reactant | potassium phtalimide | 10.8 mmol, 2.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | water | 200 ml | O | H2O
product | ethyl 3-(4-(2-aminoethoxy) phenyl)-2-ethoxypropanoate | 2.4 g, 96% | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C15H23NO4
